US06225320B1
3-Amino-2-chloro-6-trifluoromethylpyridine
2-Chloro-3-nitro-6-trifluoromethylpyridine (22.7 g, 0.10 mol) and platinum(IV) oxide (500 mg) in ethyl acetate (500 ml) were hydrogenated at 20 psi hydrogen for 2 hrs, then the catalyst was removed by filtration. The filtrate was concentrated to give the product as a tan solid (19.5 g, 0.1 mol, 99% yield).

reactant | 2-Chloro-3-nitro-6-trifluoromethylpyridine | 0.10 mol, 22.7 g | ClC1=NC(=CC=C1[N+](=O)[O-])C(F)(F)F | C6H2ClF3N2O2
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 500 ml | C(C)(=O)OCC | C4H8O2
catalyst | platinum(IV) oxide | 500 mg | [Pt](=O)=O
product | 3-Amino-2-chloro-6-trifluoromethylpyridine | 0.1 mol, 19.5 g, 99% yield | NC=1C(=NC(=CC1)C(F)(F)F)Cl | C6H4ClF3N2
